US07923565B2
Preparation of (S)-2-(4-isobutyl-phenyl)-propionic acid 2-(3,5-dichloro-pyridin-4-yl)-1-(3,4-dimethoxy-phenyl)-ethyl ester (Compound 1)
(1-Ethyl-3-[3-dimethylaminopropyl]carbodiimide hydrochloride) (EDC. HCl) (345 mg, 3 eq.) is added to a solution of 2-(3,5-dichloro-pyridin-4-yl)-1-(3,4-dimethoxy-phenyl)-ethanol (200 mg, 1 eq.), (S)-2-(4-isobutyl-phenyl)-propionic acid (148 mg, 1.2 eq.) and 4-dimethylaminopyridine (DMAP) (37 mg, 0.5 eq.) in dry CH2Cl2 (8 mL) at room temperature under nitrogen atmosphere. The mixture is stirred at room temperature overnight, then it is treated with a saturated solution of NH4Cl (20 ml) and extracted with EtOAc (2×20 ml). The combined organic layer are dried over Na2SO4 and the solvent is evaporated. The crude is purified by flash chromatography on silica gel in gradient elution (from petroleum ether/EtOAc 9/1 v/v to petroleum ether/EtOAc 7/3 v/v) to yield 259 mg of pure compound.

reactant | 1-Ethyl-3-[3-dimethylaminopropyl]carbodiimide hydrochloride | Cl.C(C)N=C=NCCCN(C)C
reactant | HCl | Cl | ClH
reactant | 2-(3,5-dichloro-pyridin-4-yl)-1-(3,4-dimethoxy-phenyl)-ethanol | 200 mg, 1 eq. | ClC=1C=NC=C(C1CC(O)C1=CC(=C(C=C1)OC)OC)Cl | C15H15Cl2NO3
reactant | (S)-2-(4-isobutyl-phenyl)-propionic acid | 148 mg, 1.2 eq. | C(C(C)C)C1=CC=C(C=C1)[C@@H](C(=O)O)C | C13H18O2
reactant | NH4Cl | 20 ml | [NH4+].[Cl-]
catalyst | 4-dimethylaminopyridine | 37 mg, 0.5 eq. | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
solvent | EDC
product | (S)-2-(4-isobutyl-phenyl)-propionic acid 2-(3,5-dichloro-pyridin-4-yl)-1-(3,4-dimethoxy-phenyl)-ethyl ester | 259 mg | ClC=1C=NC=C(C1CC(C1=CC(=C(C=C1)OC)OC)OC([C@@H](C)C1=CC=C(C=C1)CC(C)C)=O)Cl | C28H31Cl2NO4
